US08895544B2
5-{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carbonyl}-pyridine-2-carbonitrile
To a solution of 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 80 μmol) in DMF (1 mL), was added 6-cyano-nicotinoyl chloride (Preparation 46, 17 mg, 96 μmol), and DIPEA (56 μL, 320 μmol). The reaction mixture was stirred at room temperature for 72 hours and then saturated aqueous sodium hydrogen carbonate solution (5 mL) was added. The resulting solid was collected by filtration and washed with further saturated aqueous sodium hydrogen carbonate solution. The crude material was purified by reverse phase chromatography (Method C) to afford 6.9 mg of the title compound.

reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 80 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
reactant | 6-cyano-nicotinoyl chloride | 96 μmol, 17 mg | C(#N)C1=NC=C(C(=O)Cl)C=C1 | C7H3ClN2O
reactant | DIPEA | 320 μmol, 56 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carbonyl}-pyridine-2-carbonitrile | 6.9 mg | C(C)C1=C(C=C(C(=C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)C(=O)C=2C=CC(=NC2)C#N)N1 | C28H22FN7O2
